US06723724B2
Preparation of 5-{3-[4-(Diphenylmethyl)piperazinyl]propyl}-3-phenylisoxazole
About 2 min after dissolving 3-(3-phenylisoxazol-5-yl)propanal (10 mg, 0.05 mmol) and 1-(diphenylmethyl)piperazine (13 mg, 0.05 mmol) in 2 mL of dry methylene chloride, were added NaBH(OAc)3 (32 mg, 0.15 mmol) and molecular sieves (5 beads). The reaction mixture was reacted for 2.75 hr and followed the same processes as in Example 1 to obtain 12.5 mg (57.1%) of the target compound.

reactant | 3-(3-phenylisoxazol-5-yl)propanal | 0.05 mmol, 10 mg | C1(=CC=CC=C1)C1=NOC(=C1)CCC=O | C12H11NO2
reactant | 1-(diphenylmethyl)piperazine | 0.05 mmol, 13 mg | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | NaBH(OAc)3 | 0.15 mmol, 32 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-{3-[4-(Diphenylmethyl)piperazinyl]propyl}-3-phenylisoxazole | 12.5 mg, 57.1% | C1(=CC=CC=C1)C(N1CCN(CC1)CCCC1=CC(=NO1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H31N3O
